US07749999B2
N-Naphthalen-1-yl-oxalamic acid.
To N-Naphthalen-1-yl-oxalamic acid methyl ester (0.14 g, 0.61 mmol) stirring in THF (2 mL) was added 2 mL of a 1N lithium hydroxide solution. The reaction was heated to 50° C. and stirred for 2 h. The resulting mixture was concentrated in vacuo to afford a yellow residue that was acidified with 1N HCL. The resulting mixture was extracted with DCM (3×50 mL), dried over MgSO4 and concentrated under vacuum to afford crude product. The crude material was purified by flash chromatography (0-20% MeOH:DCM, silica gel) to afford the desired product (0.128 g, 98%) as a thick oil. Expected mass=215. Observed mass=216.

reactant | N-Naphthalen-1-yl-oxalamic acid methyl ester | 0.61 mmol, 0.14 g | COC(C(=O)NC1=CC=CC2=CC=CC=C12)=O | C13H11NO3
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-Naphthalen-1-yl-oxalamic acid | 0.128 g, 98% | C1(=CC=CC2=CC=CC=C12)NC(C(=O)O)=O | C12H9NO3
